### PR TITLE
[Merged by Bors] - grind(Algebra): golf `coeffs` and `span` using `grind`

### PR DESCRIPTION
**Pull request by euprunin**
---
<details>
<summary>Show trace profiling of <code>coeffs</code>: 150 ms before, 322 ms after </summary>

### Trace profiling of `coeffs` before PR 31280
```diff
diff --git a/Mathlib/Algebra/CubicDiscriminant.lean b/Mathlib/Algebra/CubicDiscriminant.lean
index d5d65cd2fd..981a00835e 100644
--- a/Mathlib/Algebra/CubicDiscriminant.lean
+++ b/Mathlib/Algebra/CubicDiscriminant.lean
@@ -82,6 +82,7 @@ theorem prod_X_sub_C_eq [CommRing S] {x y z : S} :
 
 section Coeff
 
+set_option trace.profiler true in
 private theorem coeffs : (∀ n > 3, P.toPoly.coeff n = 0) ∧ P.toPoly.coeff 3 = P.a ∧
     P.toPoly.coeff 2 = P.b ∧ P.toPoly.coeff 1 = P.c ∧ P.toPoly.coeff 0 = P.d := by
   simp only [toPoly, coeff_add, coeff_C, coeff_C_mul_X, coeff_C_mul_X_pow]
```
```
ℹ [1379/1379] Built Mathlib.Algebra.CubicDiscriminant (1.9s)
info: Mathlib/Algebra/CubicDiscriminant.lean:86:0: [Elab.async] [0.151845] elaborating proof of _private.Mathlib.Algebra.CubicDiscriminant.0.Cubic.coeffs
  [Elab.definition.value] [0.150105] _private.Mathlib.Algebra.CubicDiscriminant.0.Cubic.coeffs
    [Elab.step] [0.149781] 
          simp only [toPoly, coeff_add, coeff_C, coeff_C_mul_X, coeff_C_mul_X_pow]
          norm_num
          intro n hn
          repeat' rw [if_neg]
          any_goals cutsat
          repeat' rw [zero_add]
      [Elab.step] [0.149774] 
            simp only [toPoly, coeff_add, coeff_C, coeff_C_mul_X, coeff_C_mul_X_pow]
            norm_num
            intro n hn
            repeat' rw [if_neg]
            any_goals cutsat
            repeat' rw [zero_add]
        [Elab.step] [0.022335] simp only [toPoly, coeff_add, coeff_C, coeff_C_mul_X, coeff_C_mul_X_pow]
        [Elab.step] [0.084160] norm_num
        [Elab.step] [0.030270] any_goals cutsat
          [Elab.step] [0.010606] cutsat
            [Elab.step] [0.010602] cutsat
              [Elab.step] [0.010597] cutsat
Build completed successfully (1379 jobs).
```

### Trace profiling of `coeffs` after PR 31280
```diff
diff --git a/Mathlib/Algebra/CubicDiscriminant.lean b/Mathlib/Algebra/CubicDiscriminant.lean
index d5d65cd2fd..97628b3a33 100644
--- a/Mathlib/Algebra/CubicDiscriminant.lean
+++ b/Mathlib/Algebra/CubicDiscriminant.lean
@@ -82,14 +82,11 @@ theorem prod_X_sub_C_eq [CommRing S] {x y z : S} :
 
 section Coeff
 
+set_option trace.profiler true in
 private theorem coeffs : (∀ n > 3, P.toPoly.coeff n = 0) ∧ P.toPoly.coeff 3 = P.a ∧
     P.toPoly.coeff 2 = P.b ∧ P.toPoly.coeff 1 = P.c ∧ P.toPoly.coeff 0 = P.d := by
-  simp only [toPoly, coeff_add, coeff_C, coeff_C_mul_X, coeff_C_mul_X_pow]
-  norm_num
-  intro n hn
-  repeat' rw [if_neg]
-  any_goals cutsat
-  repeat' rw [zero_add]
+  grind [Cubic.toPoly, Polynomial.coeff_add, Polynomial.coeff_C, Polynomial.coeff_C_mul_X,
+    Polynomial.coeff_C_mul_X_pow, add_zero, zero_add]
 
 @[simp]
 theorem coeff_eq_zero {n : ℕ} (hn : 3 < n) : P.toPoly.coeff n = 0 :=
```
```
ℹ [1379/1379] Built Mathlib.Algebra.CubicDiscriminant (2.0s)
info: Mathlib/Algebra/CubicDiscriminant.lean:86:0: [Elab.async] [0.322701] elaborating proof of _private.Mathlib.Algebra.CubicDiscriminant.0.Cubic.coeffs
  [Elab.definition.value] [0.322338] _private.Mathlib.Algebra.CubicDiscriminant.0.Cubic.coeffs
    [Elab.step] [0.322220] grind [Cubic.toPoly, Polynomial.coeff_add, Polynomial.coeff_C, Polynomial.coeff_C_mul_X,
            Polynomial.coeff_C_mul_X_pow, add_zero, zero_add]
      [Elab.step] [0.322214] grind [Cubic.toPoly, Polynomial.coeff_add, Polynomial.coeff_C, Polynomial.coeff_C_mul_X,
              Polynomial.coeff_C_mul_X_pow, add_zero, zero_add]
        [Elab.step] [0.322205] grind [Cubic.toPoly, Polynomial.coeff_add, Polynomial.coeff_C, Polynomial.coeff_C_mul_X,
              Polynomial.coeff_C_mul_X_pow, add_zero, zero_add]
          [Meta.synthInstance] [0.012076] ❌️ Lean.Grind.NoNatZeroDivisors (Lean.Grind.IntModule.OfNatModule.Q R[X])
          [Meta.synthInstance] [0.010498] ❌️ Lean.Grind.NoNatZeroDivisors (Lean.Grind.IntModule.OfNatModule.Q R)
Build completed successfully (1379 jobs).
```
</details>

---
<details>
<summary>Show trace profiling of <code>span</code>: 255 ms before, 271 ms after </summary>

### Trace profiling of `span` before PR 31280
```diff
diff --git a/Mathlib/Algebra/Polynomial/Sequence.lean b/Mathlib/Algebra/Polynomial/Sequence.lean
index 036343357b..467335eec2 100644
--- a/Mathlib/Algebra/Polynomial/Sequence.lean
+++ b/Mathlib/Algebra/Polynomial/Sequence.lean
@@ -80,6 +80,7 @@ section Ring
 
 variable [Ring R] (S : Sequence R)
 
+set_option trace.profiler true in
 /-- A polynomial sequence spans `R[X]` if all of its elements' leading coefficients are units. -/
 protected lemma span (hCoeff : ∀ i, IsUnit (S i).leadingCoeff) : span R (Set.range S) = ⊤ := by
   rw [eq_top_iff']
```
```
ℹ [1188/1188] Built Mathlib.Algebra.Polynomial.Sequence (1.4s)
info: Mathlib/Algebra/Polynomial/Sequence.lean:84:0: [Elab.command] [0.010495] /--
    A polynomial sequence spans `R[X]` if all of its elements' leading coefficients are units. -/
    protected lemma span (hCoeff : ∀ i, IsUnit (S i).leadingCoeff) : span R (Set.range S) = ⊤ :=
      by
      rw [eq_top_iff']
      intro P
      nontriviality R using Subsingleton.eq_zero P
      generalize hp : P.natDegree = n
      induction n using Nat.strong_induction_on generalizing P with
      | h n ih =>
        by_cases p_ne_zero : P = 0
        ·
          simp [p_ne_zero]
            -- let u be the inverse of `S n`'s leading coefficient
            
        obtain ⟨u, leftinv, rightinv⟩ := isUnit_iff_exists.mp <| hCoeff n
        let head := P.leadingCoeff • u • S n
        let tail := P - head
        have head_mem_span : head ∈ span R (Set.range S) :=
          by
          have in_span : S n ∈ span R (Set.range S) := subset_span (by simp)
          have smul_span := smul_mem (span R (Set.range S)) (P.leadingCoeff • u) in_span
          rwa [smul_assoc] at smul_span
        by_cases tail_eq_zero : tail = 0
        ·
          simp [head_mem_span, sub_eq_iff_eq_add.mp tail_eq_zero]
            -- we'll do so via the induction hypothesis,
                -- and once we show we can use it, `P` is a difference of two members of the span
            
        refine
          sub_mem_iff_left _ head_mem_span |>.mp <|
            -- so let's prove the tail has degree less than `n`
            ih tail.natDegree (natDegree_lt_iff_degree_lt tail_eq_zero |>.mpr ?_) _ rfl
        have isRightRegular_smul_leadingCoeff : IsRightRegular (u • S n).leadingCoeff := by
          simpa [leadingCoeff_smul_of_smul_regular, IsSMulRegular.of_mul_eq_one leftinv, rightinv] using
            isRegular_one.right
        have u_degree_same :=
          degree_smul_of_isRightRegular_leadingCoeff (left_ne_zero_of_mul_eq_one rightinv) (hCoeff n).isRegular.right
        have head_degree_eq :=
          degree_smul_of_isRightRegular_leadingCoeff (leadingCoeff_ne_zero.mpr p_ne_zero)
            isRightRegular_smul_leadingCoeff
        rw [u_degree_same, S.degree_eq n, ← hp, eq_comm, ← degree_eq_natDegree p_ne_zero, hp] at head_degree_eq
        have head_degree_eq_natDegree : head.degree = head.natDegree :=
          degree_eq_natDegree <| by
            by_cases n_eq_zero : n = 0
            · dsimp [head]
              rw [n_eq_zero, ← coeff_natDegree, natDegree_eq] at rightinv
              rwa [n_eq_zero, eq_C_of_natDegree_eq_zero <| S.natDegree_eq 0, smul_C, smul_eq_mul, map_mul, ← C_mul,
                rightinv, smul_C, smul_eq_mul, mul_one, C_eq_zero, leadingCoeff_eq_zero]
            · apply head.ne_zero_of_degree_gt (n := 0)
              rw [← head_degree_eq]
              exact
                natDegree_pos_iff_degree_pos.mp
                  (by cutsat)
                    -- and that they have matching leading coefficients
                    
        have hPhead : P.leadingCoeff = head.leadingCoeff :=
          by
          rw [degree_eq_natDegree p_ne_zero, head_degree_eq_natDegree] at head_degree_eq
          nth_rw 2 [← coeff_natDegree]
          rw_mod_cast [← head_degree_eq, hp]
          dsimp [head]
          nth_rw 2 [← S.natDegree_eq n]
          rw [coeff_smul, coeff_smul, coeff_natDegree, smul_eq_mul, smul_eq_mul, rightinv, mul_one]
            -- which we can now combine to show that `P - head` must have strictly lower degree,
                -- as its leading term has been cancelled, completing our proof.
            
        have tail_degree_lt := P.degree_sub_lt head_degree_eq p_ne_zero hPhead
        rwa [degree_eq_natDegree p_ne_zero, hp] at tail_degree_lt
info: Mathlib/Algebra/Polynomial/Sequence.lean:84:0: [Elab.async] [0.257460] elaborating proof of Polynomial.Sequence.span
  [Elab.definition.value] [0.254608] Polynomial.Sequence.span
    [Elab.step] [0.250181] 
          rw [eq_top_iff']
          intro P
          nontriviality R using Subsingleton.eq_zero P
          generalize hp : P.natDegree = n
          induction n using Nat.strong_induction_on generalizing P with
          | h n ih =>
            by_cases p_ne_zero : P = 0
            ·
              simp [p_ne_zero]
                -- let u be the inverse of `S n`'s leading coefficient
                
            obtain ⟨u, leftinv, rightinv⟩ := isUnit_iff_exists.mp <| hCoeff n
            let head := P.leadingCoeff • u • S n
            let tail := P - head
            have head_mem_span : head ∈ span R (Set.range S) :=
              by
              have in_span : S n ∈ span R (Set.range S) := subset_span (by simp)
              have smul_span := smul_mem (span R (Set.range S)) (P.leadingCoeff • u) in_span
              rwa [smul_assoc] at smul_span
            by_cases tail_eq_zero : tail = 0
            ·
              simp [head_mem_span, sub_eq_iff_eq_add.mp tail_eq_zero]
                -- we'll do so via the induction hypothesis,
                    -- and once we show we can use it, `P` is a difference of two members of the span
                
            refine
              sub_mem_iff_left _ head_mem_span |>.mp <|
[… 838 lines omitted …]
                                    rw [coeff_smul, coeff_smul, coeff_natDegree, smul_eq_mul, smul_eq_mul, rightinv,
                                      mul_one]
                                      -- which we can now combine to show that `P - head` must have strictly lower degree,
                                          -- as its leading term has been cancelled, completing our proof.
                                      )
                                [Elab.step] [0.069742] 
                                      rw [degree_eq_natDegree p_ne_zero, head_degree_eq_natDegree] at head_degree_eq
                                      nth_rw 2 [← coeff_natDegree]
                                      rw_mod_cast [← head_degree_eq, hp]
                                      dsimp [head]
                                      nth_rw 2 [← S.natDegree_eq n]
                                      rw [coeff_smul, coeff_smul, coeff_natDegree, smul_eq_mul, smul_eq_mul, rightinv,
                                        mul_one]
                                  [Elab.step] [0.069740] 
                                        rw [degree_eq_natDegree p_ne_zero, head_degree_eq_natDegree] at head_degree_eq
                                        nth_rw 2 [← coeff_natDegree]
                                        rw_mod_cast [← head_degree_eq, hp]
                                        dsimp [head]
                                        nth_rw 2 [← S.natDegree_eq n]
                                        rw [coeff_smul, coeff_smul, coeff_natDegree, smul_eq_mul, smul_eq_mul, rightinv,
                                          mul_one]
                                    [Elab.step] [0.047324] rw_mod_cast [← head_degree_eq, hp]
                                      [Elab.step] [0.047294] (
                                            (norm_cast at *; rw [← head_degree_eq])
                                            (norm_cast at *; rw [hp]))
                                        [Elab.step] [0.047292] 
                                              (norm_cast at *; rw [← head_degree_eq])
                                              (norm_cast at *; rw [hp])
                                          [Elab.step] [0.047290] 
                                                (norm_cast at *; rw [← head_degree_eq])
                                                (norm_cast at *; rw [hp])
                                            [Elab.step] [0.026171] (norm_cast at *; rw [← head_degree_eq])
                                              [Elab.step] [0.026169] norm_cast at *; rw [← head_degree_eq]
                                                [Elab.step] [0.026167] norm_cast at *; rw [← head_degree_eq]
                                                  [Elab.step] [0.025826] norm_cast at *
                                                    [Elab.step] [0.025819] norm_cast0 at * <;> try trivial
                                                      [Elab.step] [0.025816] focus
                                                            norm_cast0 at *
                                                            with_annotate_state"<;>" skip
                                                            all_goals try trivial
                                                        [Elab.step] [0.025812] 
                                                              norm_cast0 at *
                                                              with_annotate_state"<;>" skip
                                                              all_goals try trivial
                                                          [Elab.step] [0.025810] 
                                                                norm_cast0 at *
                                                                with_annotate_state"<;>" skip
                                                                all_goals try trivial
                                                            [Elab.step] [0.010749] norm_cast0 at *
                                                            [Elab.step] [0.015043] all_goals try trivial
                                                              [Elab.step] [0.015018] try trivial
                                                                [Elab.step] [0.015016] try trivial
                                                                  [Elab.step] [0.015013] try trivial
                                                                    [Elab.step] [0.015009] first
                                                                        | trivial
                                                                        | skip
                                                                      [Elab.step] [0.014998] trivial
                                                                        [Elab.step] [0.014995] trivial
                                                                          [Elab.step] [0.014991] trivial
                                            [Elab.step] [0.021114] (norm_cast at *; rw [hp])
                                              [Elab.step] [0.021101] norm_cast at *; rw [hp]
                                                [Elab.step] [0.021098] norm_cast at *; rw [hp]
                                                  [Elab.step] [0.020775] norm_cast at *
                                                    [Elab.step] [0.020772] norm_cast0 at * <;> try trivial
                                                      [Elab.step] [0.020769] focus
                                                            norm_cast0 at *
                                                            with_annotate_state"<;>" skip
                                                            all_goals try trivial
                                                        [Elab.step] [0.020766] 
                                                              norm_cast0 at *
                                                              with_annotate_state"<;>" skip
                                                              all_goals try trivial
                                                          [Elab.step] [0.020764] 
                                                                norm_cast0 at *
                                                                with_annotate_state"<;>" skip
                                                                all_goals try trivial
                                                            [Elab.step] [0.014340] all_goals try trivial
                                                              [Elab.step] [0.014335] try trivial
                                                                [Elab.step] [0.014332] try trivial
                                                                  [Elab.step] [0.014330] try trivial
                                                                    [Elab.step] [0.014327] first
                                                                        | trivial
                                                                        | skip
                                                                      [Elab.step] [0.014317] trivial
                                                                        [Elab.step] [0.014315] trivial
                                                                          [Elab.step] [0.014312] trivial
                                    [Elab.step] [0.010763] rw [coeff_smul, coeff_smul, coeff_natDegree, smul_eq_mul,
                                          smul_eq_mul, rightinv, mul_one]
                                      [Elab.step] [0.010751] (rewrite [coeff_smul, coeff_smul, coeff_natDegree,
                                              smul_eq_mul, smul_eq_mul, rightinv, mul_one];
                                            with_annotate_state"]" (try (with_reducible rfl)))
                                        [Elab.step] [0.010749] rewrite [coeff_smul, coeff_smul, coeff_natDegree,
                                                smul_eq_mul, smul_eq_mul, rightinv, mul_one];
                                              with_annotate_state"]" (try (with_reducible rfl))
                                          [Elab.step] [0.010746] rewrite [coeff_smul, coeff_smul, coeff_natDegree,
                                                  smul_eq_mul, smul_eq_mul, rightinv, mul_one];
                                                with_annotate_state"]" (try (with_reducible rfl))
                                            [Elab.step] [0.010532] rewrite [coeff_smul, coeff_smul, coeff_natDegree,
                                                  smul_eq_mul, smul_eq_mul, rightinv, mul_one]
Build completed successfully (1188 jobs).
```

### Trace profiling of `span` after PR 31280
```diff
diff --git a/Mathlib/Algebra/Polynomial/Sequence.lean b/Mathlib/Algebra/Polynomial/Sequence.lean
index 036343357b..ac23880759 100644
--- a/Mathlib/Algebra/Polynomial/Sequence.lean
+++ b/Mathlib/Algebra/Polynomial/Sequence.lean
@@ -80,6 +80,7 @@ section Ring
 
 variable [Ring R] (S : Sequence R)
 
+set_option trace.profiler true in
 /-- A polynomial sequence spans `R[X]` if all of its elements' leading coefficients are units. -/
 protected lemma span (hCoeff : ∀ i, IsUnit (S i).leadingCoeff) : span R (Set.range S) = ⊤ := by
   rw [eq_top_iff']
@@ -124,15 +125,7 @@ protected lemma span (hCoeff : ∀ i, IsUnit (S i).leadingCoeff) : span R (Set.r
       ← degree_eq_natDegree p_ne_zero, hp] at head_degree_eq
     -- and that this degree is also their `natDegree`
     have head_degree_eq_natDegree : head.degree = head.natDegree := degree_eq_natDegree <| by
-      by_cases n_eq_zero : n = 0
-      · dsimp [head]
-        rw [n_eq_zero, ← coeff_natDegree, natDegree_eq] at rightinv
-        rwa [n_eq_zero, eq_C_of_natDegree_eq_zero <| S.natDegree_eq 0,
-          smul_C, smul_eq_mul, map_mul, ← C_mul, rightinv, smul_C, smul_eq_mul,
-          mul_one, C_eq_zero, leadingCoeff_eq_zero]
-      · apply head.ne_zero_of_degree_gt (n := 0)
-        rw [← head_degree_eq]
-        exact natDegree_pos_iff_degree_pos.mp (by cutsat)
+      grind [degree_eq_bot]
     -- and that they have matching leading coefficients
     have hPhead : P.leadingCoeff = head.leadingCoeff := by
       rw [degree_eq_natDegree p_ne_zero, head_degree_eq_natDegree] at head_degree_eq
```
```
ℹ [1188/1188] Built Mathlib.Algebra.Polynomial.Sequence (1.4s)
info: Mathlib/Algebra/Polynomial/Sequence.lean:84:0: [Elab.async] [0.273862] elaborating proof of Polynomial.Sequence.span
  [Elab.definition.value] [0.271416] Polynomial.Sequence.span
    [Elab.step] [0.268031] 
          rw [eq_top_iff']
          intro P
          nontriviality R using Subsingleton.eq_zero P
          generalize hp : P.natDegree = n
          induction n using Nat.strong_induction_on generalizing P with
          | h n ih =>
            by_cases p_ne_zero : P = 0
            ·
              simp [p_ne_zero]
                -- let u be the inverse of `S n`'s leading coefficient
                
            obtain ⟨u, leftinv, rightinv⟩ := isUnit_iff_exists.mp <| hCoeff n
            let head := P.leadingCoeff • u • S n
            let tail := P - head
            have head_mem_span : head ∈ span R (Set.range S) :=
              by
              have in_span : S n ∈ span R (Set.range S) := subset_span (by simp)
              have smul_span := smul_mem (span R (Set.range S)) (P.leadingCoeff • u) in_span
              rwa [smul_assoc] at smul_span
            by_cases tail_eq_zero : tail = 0
            ·
              simp [head_mem_span, sub_eq_iff_eq_add.mp tail_eq_zero]
                -- we'll do so via the induction hypothesis,
                    -- and once we show we can use it, `P` is a difference of two members of the span
                
            refine
              sub_mem_iff_left _ head_mem_span |>.mp <|
                -- so let's prove the tail has degree less than `n`
                ih tail.natDegree (natDegree_lt_iff_degree_lt tail_eq_zero |>.mpr ?_) _ rfl
            have isRightRegular_smul_leadingCoeff : IsRightRegular (u • S n).leadingCoeff := by
              simpa [leadingCoeff_smul_of_smul_regular, IsSMulRegular.of_mul_eq_one leftinv, rightinv] using
                isRegular_one.right
            have u_degree_same :=
              degree_smul_of_isRightRegular_leadingCoeff (left_ne_zero_of_mul_eq_one rightinv)
                (hCoeff n).isRegular.right
            have head_degree_eq :=
              degree_smul_of_isRightRegular_leadingCoeff (leadingCoeff_ne_zero.mpr p_ne_zero)
                isRightRegular_smul_leadingCoeff
            rw [u_degree_same, S.degree_eq n, ← hp, eq_comm, ← degree_eq_natDegree p_ne_zero, hp] at head_degree_eq
            have head_degree_eq_natDegree : head.degree = head.natDegree :=
              degree_eq_natDegree <| by
                grind [degree_eq_bot]
                  -- and that they have matching leading coefficients
                  
            have hPhead : P.leadingCoeff = head.leadingCoeff :=
              by
              rw [degree_eq_natDegree p_ne_zero, head_degree_eq_natDegree] at head_degree_eq
              nth_rw 2 [← coeff_natDegree]
              rw_mod_cast [← head_degree_eq, hp]
              dsimp [head]
              nth_rw 2 [← S.natDegree_eq n]
              rw [coeff_smul, coeff_smul, coeff_natDegree, smul_eq_mul, smul_eq_mul, rightinv, mul_one]
                -- which we can now combine to show that `P - head` must have strictly lower degree,
                    -- as its leading term has been cancelled, completing our proof.
                
            have tail_degree_lt := P.degree_sub_lt head_degree_eq p_ne_zero hPhead
            rwa [degree_eq_natDegree p_ne_zero, hp] at tail_degree_lt
      [Elab.step] [0.268025] 
            rw [eq_top_iff']
            intro P
            nontriviality R using Subsingleton.eq_zero P
            generalize hp : P.natDegree = n
            induction n using Nat.strong_induction_on generalizing P with
            | h n ih =>
              by_cases p_ne_zero : P = 0
              ·
                simp [p_ne_zero]
                  -- let u be the inverse of `S n`'s leading coefficient
                  
              obtain ⟨u, leftinv, rightinv⟩ := isUnit_iff_exists.mp <| hCoeff n
              let head := P.leadingCoeff • u • S n
              let tail := P - head
              have head_mem_span : head ∈ span R (Set.range S) :=
                by
                have in_span : S n ∈ span R (Set.range S) := subset_span (by simp)
                have smul_span := smul_mem (span R (Set.range S)) (P.leadingCoeff • u) in_span
                rwa [smul_assoc] at smul_span
              by_cases tail_eq_zero : tail = 0
              ·
                simp [head_mem_span, sub_eq_iff_eq_add.mp tail_eq_zero]
                  -- we'll do so via the induction hypothesis,
                      -- and once we show we can use it, `P` is a difference of two members of the span
                  
              refine
                sub_mem_iff_left _ head_mem_span |>.mp <|
                  -- so let's prove the tail has degree less than `n`
                  ih tail.natDegree (natDegree_lt_iff_degree_lt tail_eq_zero |>.mpr ?_) _ rfl
              have isRightRegular_smul_leadingCoeff : IsRightRegular (u • S n).leadingCoeff := by
                simpa [leadingCoeff_smul_of_smul_regular, IsSMulRegular.of_mul_eq_one leftinv, rightinv] using
                  isRegular_one.right
              have u_degree_same :=
                degree_smul_of_isRightRegular_leadingCoeff (left_ne_zero_of_mul_eq_one rightinv)
                  (hCoeff n).isRegular.right
              have head_degree_eq :=
                degree_smul_of_isRightRegular_leadingCoeff (leadingCoeff_ne_zero.mpr p_ne_zero)
                  isRightRegular_smul_leadingCoeff
[… 538 lines omitted …]
                                    rw [coeff_smul, coeff_smul, coeff_natDegree, smul_eq_mul, smul_eq_mul, rightinv,
                                      mul_one]
                                      -- which we can now combine to show that `P - head` must have strictly lower degree,
                                          -- as its leading term has been cancelled, completing our proof.
                                      )
                                [Elab.step] [0.068011] 
                                      rw [degree_eq_natDegree p_ne_zero, head_degree_eq_natDegree] at head_degree_eq
                                      nth_rw 2 [← coeff_natDegree]
                                      rw_mod_cast [← head_degree_eq, hp]
                                      dsimp [head]
                                      nth_rw 2 [← S.natDegree_eq n]
                                      rw [coeff_smul, coeff_smul, coeff_natDegree, smul_eq_mul, smul_eq_mul, rightinv,
                                        mul_one]
                                  [Elab.step] [0.068008] 
                                        rw [degree_eq_natDegree p_ne_zero, head_degree_eq_natDegree] at head_degree_eq
                                        nth_rw 2 [← coeff_natDegree]
                                        rw_mod_cast [← head_degree_eq, hp]
                                        dsimp [head]
                                        nth_rw 2 [← S.natDegree_eq n]
                                        rw [coeff_smul, coeff_smul, coeff_natDegree, smul_eq_mul, smul_eq_mul, rightinv,
                                          mul_one]
                                    [Elab.step] [0.046123] rw_mod_cast [← head_degree_eq, hp]
                                      [Elab.step] [0.046096] (
                                            (norm_cast at *; rw [← head_degree_eq])
                                            (norm_cast at *; rw [hp]))
                                        [Elab.step] [0.046093] 
                                              (norm_cast at *; rw [← head_degree_eq])
                                              (norm_cast at *; rw [hp])
                                          [Elab.step] [0.046091] 
                                                (norm_cast at *; rw [← head_degree_eq])
                                                (norm_cast at *; rw [hp])
                                            [Elab.step] [0.025713] (norm_cast at *; rw [← head_degree_eq])
                                              [Elab.step] [0.025711] norm_cast at *; rw [← head_degree_eq]
                                                [Elab.step] [0.025709] norm_cast at *; rw [← head_degree_eq]
                                                  [Elab.step] [0.025372] norm_cast at *
                                                    [Elab.step] [0.025365] norm_cast0 at * <;> try trivial
                                                      [Elab.step] [0.025361] focus
                                                            norm_cast0 at *
                                                            with_annotate_state"<;>" skip
                                                            all_goals try trivial
                                                        [Elab.step] [0.025358] 
                                                              norm_cast0 at *
                                                              with_annotate_state"<;>" skip
                                                              all_goals try trivial
                                                          [Elab.step] [0.025356] 
                                                                norm_cast0 at *
                                                                with_annotate_state"<;>" skip
                                                                all_goals try trivial
                                                            [Elab.step] [0.010624] norm_cast0 at *
                                                            [Elab.step] [0.014717] all_goals try trivial
                                                              [Elab.step] [0.014693] try trivial
                                                                [Elab.step] [0.014691] try trivial
                                                                  [Elab.step] [0.014689] try trivial
                                                                    [Elab.step] [0.014685] first
                                                                        | trivial
                                                                        | skip
                                                                      [Elab.step] [0.014675] trivial
                                                                        [Elab.step] [0.014672] trivial
                                                                          [Elab.step] [0.014669] trivial
                                            [Elab.step] [0.020374] (norm_cast at *; rw [hp])
                                              [Elab.step] [0.020362] norm_cast at *; rw [hp]
                                                [Elab.step] [0.020359] norm_cast at *; rw [hp]
                                                  [Elab.step] [0.020047] norm_cast at *
                                                    [Elab.step] [0.020043] norm_cast0 at * <;> try trivial
                                                      [Elab.step] [0.020040] focus
                                                            norm_cast0 at *
                                                            with_annotate_state"<;>" skip
                                                            all_goals try trivial
                                                        [Elab.step] [0.020037] 
                                                              norm_cast0 at *
                                                              with_annotate_state"<;>" skip
                                                              all_goals try trivial
                                                          [Elab.step] [0.020035] 
                                                                norm_cast0 at *
                                                                with_annotate_state"<;>" skip
                                                                all_goals try trivial
                                                            [Elab.step] [0.013715] all_goals try trivial
                                                              [Elab.step] [0.013710] try trivial
                                                                [Elab.step] [0.013708] try trivial
                                                                  [Elab.step] [0.013705] try trivial
                                                                    [Elab.step] [0.013702] first
                                                                        | trivial
                                                                        | skip
                                                                      [Elab.step] [0.013692] trivial
                                                                        [Elab.step] [0.013689] trivial
                                                                          [Elab.step] [0.013685] trivial
                                    [Elab.step] [0.010488] rw [coeff_smul, coeff_smul, coeff_natDegree, smul_eq_mul,
                                          smul_eq_mul, rightinv, mul_one]
                                      [Elab.step] [0.010477] (rewrite [coeff_smul, coeff_smul, coeff_natDegree,
                                              smul_eq_mul, smul_eq_mul, rightinv, mul_one];
                                            with_annotate_state"]" (try (with_reducible rfl)))
                                        [Elab.step] [0.010474] rewrite [coeff_smul, coeff_smul, coeff_natDegree,
                                                smul_eq_mul, smul_eq_mul, rightinv, mul_one];
                                              with_annotate_state"]" (try (with_reducible rfl))
                                          [Elab.step] [0.010472] rewrite [coeff_smul, coeff_smul, coeff_natDegree,
                                                  smul_eq_mul, smul_eq_mul, rightinv, mul_one];
                                                with_annotate_state"]" (try (with_reducible rfl))
                                            [Elab.step] [0.010272] rewrite [coeff_smul, coeff_smul, coeff_natDegree,
                                                  smul_eq_mul, smul_eq_mul, rightinv, mul_one]
Build completed successfully (1188 jobs).
```
</details>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/CubicDiscriminant.lean [hunk 1]
```diff
@@ -84,12 +84,8 @@ section Coeff
...
 private theorem coeffs : (∀ n > 3, P.toPoly.coeff n = 0) ∧ P.toPoly.coeff 3 = P.a ∧
     P.toPoly.coeff 2 = P.b ∧ P.toPoly.coeff 1 = P.c ∧ P.toPoly.coeff 0 = P.d := by
-  simp only [toPoly, coeff_add, coeff_C, coeff_C_mul_X, coeff_C_mul_X_pow]
-  norm_num
-  intro n hn
-  repeat' rw [if_neg]
-  any_goals cutsat
-  repeat' rw [zero_add]
+  grind [Cubic.toPoly, Polynomial.coeff_add, Polynomial.coeff_C, Polynomial.coeff_C_mul_X,
+    Polynomial.coeff_C_mul_X_pow, add_zero, zero_add]
```
Comment (j-loreaux) [inline Mathlib/Algebra/CubicDiscriminant.lean]: I think this might be better as a `simp only [...]` then `grind`.

Comment (euprunin) [reply Mathlib/Algebra/CubicDiscriminant.lean]: Yes, that is better. Now updated. Thanks for reviewing!
